US07919628B2
1.0 g 1-Bromo-naphthalene-2-carboxylic acid and 0.61 g 2,2-dimethylglycine methyl ester hydrochloride were suspended in 30 ml of dichloromethane and 10 ml of DMF. 1.31 ml N-methylmorpholine, 0.70 g 1-hydroxybenzotriazole and, finally, 0.99 g 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added and the reaction stirred at room temperature for 14 h. The reaction mixture was chromatographed on silica gel without aqueous work-up to give 1.3 g 2-[(1-bromo-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester (93%).

reactant | 1-Bromo-naphthalene-2-carboxylic acid | 1.0 g | BrC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H7BrO2
reactant | 2,2-dimethylglycine methyl ester hydrochloride | 0.61 g | Cl.COC(C(N)(C)C)=O
reactant | N-methylmorpholine | 1.31 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 0.70 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.99 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[(1-bromo-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 1.3 g, 93% | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)Br)=O | C16H16BrNO3
